### PR TITLE
[Merged by Bors] - feat(NumberField/CMField): All CM-extensions come from the real maximal subfield

### PR DESCRIPTION
**Pull request by xroblot**
Main result: if `K/F` is a CM-extension then `F` is isomorphic to the maximal real subfield of `K`

---

- [x] depends on: #23760

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #23858.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/23858*

### CODE REVIEW

**Comment by MichaelStollBayreuth** [comment]
LGTM!

maintainer merge

File: Mathlib/Algebra/Field/Subfield/Basic.lean [hunk 1]
```diff
@@ -444,6 +444,21 @@ theorem coe_rangeRestrictField (f : K →+* L) (x : K) : (f.rangeRestrictField x
...
+  RingEquiv.ofBijective f.rangeRestrictField f.rangeRestrictField_bijective
+
+@[simp]
+theorem coe_rangeRestrictFieldEquiv (f : K →+* L) (x : K) :
+    (f.rangeRestrictFieldEquiv x : L) = f x := rfl
+
+@[simp]
+theorem rangeRestrictFieldEquiv_apply_symm_apply (f : K →+* L) (x : f.fieldRange) :
+    f (f.rangeRestrictFieldEquiv.symm x) = x := by
+  rw [← coe_rangeRestrictFieldEquiv, RingEquiv.apply_symm_apply]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Field/Subfield/Basic.lean]: Can these simp lemmas be auto-generated with `@[simps]` on the definition?

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 2]
```diff
@@ -307,6 +303,19 @@ lemma finrank_eq_one_iff_eq_top {K : IntermediateField F E} :
...
 
+theorem bot_eq_top_iff_finrank_eq_one :
+    (⊥ : IntermediateField F E) = ⊤ ↔ Module.finrank F E = 1 := by
+  rw [← IntermediateField.finrank_bot', ← finrank_eq_one_iff_eq_top]
+
+variable (F E) in
+theorem isSimpleOrder_of_finrank_prime (hp : Nat.Prime (Module.finrank F E)) :
+    IsSimpleOrder (IntermediateField F E) := by
+  refine { toNontrivial := ?_, eq_bot_or_eq_top := ?_ }
+  · refine ⟨⊥, ⊤, fun h ↦ Nat.prime_one_false (bot_eq_top_iff_finrank_eq_one.mp h ▸ hp)⟩
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]: can you use `exact` here?

File: Mathlib/Algebra/Field/Subfield/Basic.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/Field/Subfield/Basic.lean]: Yes, `simps` can correctly generate the first lemma, but not `rangeRestrictFieldEquiv_apply_symm_apply`.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
